US03950423
10,11-Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one
A mixture of 1.45 g. (0.00544 mole) of 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene, 0.73 g. (0.0073 mole) of chromium trioxide, 25 ml. of trifluoroacetic acid and 2 ml. of glacial acetic acid is stirred at reflux for 21/4 hours. During this period, almost all of the chromium trioxide dissolves. Solvents are evaporated under reduced pressure and the residue is partitioned between benzene and water. The aqueous layer is separated and re-extracted twice with benzene. The combined benzene extracts are washed thoroughly with water, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure. The crude product is left as the residual oily solid and is purified by column chromatography on 75 g. of silica gel, eluting the product with 1:1 benzene-carbon tetrachloride. The fractions that show one spot of Rf 0.75 on a silica thin layer plate developed with benzene are combined. Evaporation of the solvent under reduced pressure leaves the white crystalline product, m.p. 70°-75°C.

reactant | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene | 0.00544 mole | FC1(C(C2=C(CC3=C1C=CC=C3)C=CC=C2)(F)F)F | C15H10F4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | chromium trioxide | 0.0073 mole | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 10,11-Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one | FC1(C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)(F)F)F | C15H8F4O
